US04891375
4-(4-(4-(4-(3-Benzisothiazolyl)piperazinyl)butyl)phenyl)-2-aminothiazole
To a 100 ml round-bottomed flask equipped with condenser and N2 inlet were added 1.22 g (3.52 mmol) (4-(4-(4-chlorobutyl)phenyl)-2-aminothiazole, 0.90 g (3.52 mmol) 3-piperazinyl-benzisothiazole, 1.84 ml (10.57 mmol) diisopropylethylamine, 0.75 g (7.04 mmol) sodium carbonate, 2 mg sodium iodide, and 35 ml methylisobutylketone. The reaction mixture was refluxed 6 days, cooled, and evaporated. The residue was chromatographed on silica gel using methylene chloride/ethyl acetate as eluent, and the product fractions dissolved in methylene chloride/methanol and precipitated by addition of methylene chloride saturated with HCl. The precipitate was filtered and dried to give a solid, 242 mg (13%), m.p. 258-261° C. NMR (DMSO-d6): 1.6-1.8 (m, 4H), 2.7 (t, 2H), 3.2-3.6 (m, 8H), 4.1 (m, 2H), 7.20 (s, 1H), 7.3-8.2 (m, 8H).

reactant | 4-(4-(4-chlorobutyl)phenyl)-2-aminothiazole | ClCCCCC1=CC=C(C=C1)C=1N=C(SC1)N | C13H15ClN2S
reactant | 3-piperazinyl-benzisothiazole | 3.52 mmol, 0.90 g | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
reactant | diisopropylethylamine | 10.57 mmol, 1.84 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium carbonate | 7.04 mmol, 0.75 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 2 mg | [I-].[Na+]
solvent | methylisobutylketone | 35 ml | CC(=O)CC(C)C | C6H12O
product | 4-(4-(4-(4-(3-Benzisothiazolyl)piperazinyl)butyl)phenyl)-2-aminothiazole | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCC2=CC=C(C=C2)C=2N=C(SC2)N | C24H27N5S2
